US07375103B2
A mixture of 1-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}ethanone (10.00 g, 30.638 mmol), tert-butyl 3-formyl-1-piperidinecarboxylate (13.069 g, 61.275 mmol), tert-butylcyanoacetate (8.650 g, 61.275 mmol), and ammonium acetate (6.902 g, 91.913 mmol) in dioxane (10 mL) was stirred at 90° C. overnight. After cooled to room temperature, the reaction mixture was diluted with ethyl acetate (100 mL). To the mixture was added chloranil (1.507 g, 6.128 mmol), and stirred at room temperature. After 1.5 hrs, ascorbic acid (1.079 g, 6.128 mmol) was added to the mixture. After stirred for 1.5 hrs, the mixture was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over MgSO4, filtered, and then concentrated under reduced pressure. The resulting residue was purified by column chromatography on Silica-gel (hexane/ethyl acetate=2/1) to give tert-butyl 2-amino-4-[1-(tert-butoxycarbonyl)-3-piperidinyl]-6-{2-(cyclopropyl-methoxy)-6-[(4-methoxybenzyl)oxy]phenyl}nicotinate as a pale brown form (4.9 g, 24%).

reactant | 1-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}ethanone | 30.638 mmol, 10.00 g | C1(CC1)COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C(C)=O | C20H22O4
reactant | tert-butyl 3-formyl-1-piperidinecarboxylate | 61.275 mmol, 13.069 g | C(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | tert-butylcyanoacetate | 61.275 mmol, 8.650 g | C(C)(C)(C)OC(CC#N)=O | C7H11NO2
reactant | ammonium acetate | 91.913 mmol, 6.902 g | C(C)(=O)[O-].[NH4+]
reactant | chloranil | 6.128 mmol, 1.507 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | ascorbic acid | 6.128 mmol, 1.079 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-amino-4-[1-(tert-butoxycarbonyl)-3-piperidinyl]-6-{2-(cyclopropyl-methoxy)-6-[(4-methoxybenzyl)oxy]phenyl}nicotinate | NC1=C(C(=O)OC(C)(C)C)C(=CC(=N1)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1)C1CN(CCC1)C(=O)OC(C)(C)C | C38H49N3O7
